US05684034
A mixture of 155 mg (0.39 mmol) of [[3-(2-amino-2-oxoethyl)-1-[(3-chlorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid ethyl ester and 4 mL of 1N NaOH in 10 mL of ethanol was heated 0.5 hours, allowed to cool and the precipitate filtered to give 140 mg (88% yield) of [[3-(2-amino-2-oxoethyl)-1-[(3-chlorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid sodium salt, mp, >250° C.

reactant | [[3-(2-amino-2-oxoethyl)-1-[(3-chlorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid ethyl ester | 0.39 mmol, 155 mg | C(C)OC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC(=CC=C1)Cl)C)CC(=O)N)=O | C22H23ClN2O4
reactant | NaOH | 1N, 4 mL | [OH-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | [[3-(2-amino-2-oxoethyl)-1-[(3-chlorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid sodium salt | 140 mg, 88% yield | [Na+].NC(CC1=C(N(C2=CC=CC(=C12)OCC(=O)[O-])CC1=CC(=CC=C1)Cl)C)=O | InChI=1S/C20H19ClN2O4.Na/c1-12-15(9-18(22)24)20-16(6-3-7-17(20)27-11-19(25)26)23(12)10-13-4-2-5-14(21)8-13;/h2-8H,9-11H2,1H3,(H2,22,24)(H,25,26);/q;+1/p-1
